US06593333B1
4-(2-Fluoro-4-chloro-5-benzamidoanilino)-6,7-dimethoxyquinazoline hydrochloride
Benzoyl chloride (0.025 ml) and pyridine (0.036 ml) were added to a suspension of 4-(5-amino-4-chloro-2-fluoroanilino)-6,7-dimethoxyquinazoline (125 mg) in dry methylene chloride (3 ml) and the resulting mixture was stirred at ambient temperature for 18 hours. Isohexane (3 ml) was added and the precipitated solid was isolated, washed with diethyl ether and dried under vacuum. The title compound was obtained as a solid (65 mg); NMR: 4.0 (s, 6H), 7.35 (s, 1H), 7.56 (m, 3H), 7.78 (d, 2H), 7.99 (d, 2H), 8.22 (s, 1H), 8.81 (s, 1H), 10.2 (broad s, 1H); m/s: M+H+ 453, 455.

reactant | Benzoyl chloride | 0.025 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | pyridine | 0.036 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-(5-amino-4-chloro-2-fluoroanilino)-6,7-dimethoxyquinazoline | 125 mg | NC=1C(=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC)C1)F)Cl | C16H14ClFN4O2
reactant | Isohexane | 3 ml | CCCC(C)C | C6H14
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-Fluoro-4-chloro-5-benzamidoanilino)-6,7-dimethoxyquinazoline hydrochloride | Cl.FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC)C=C(C(=C1)Cl)NC(C1=CC=CC=C1)=O | InChI=1S/C23H18ClFN4O3.ClH/c1-31-20-8-14-17(11-21(20)32-2)26-12-27-22(14)28-19-10-18(15(24)9-16(19)25)29-23(30)13-6-4-3-5-7-13;/h3-12H,1-2H3,(H,29,30)(H,26,27,28);1H
